US04105690
N-chloracetyl (4-hydroxy phenyl) glycine
18 g of gaseous hydrochloric acid at 5° C are dissolved in a solution of 94 g (1 mole) of phenol and 83.8 g (0.5 mole) of chloracetamidoglycolic acid in 120 g of glacial acetic acid. After 8 hours at this temperature and then 16 hours at ambient temperature, the hydrochloric and acetic acids are distilled off at 25 mm of mercury, then the excess phenol at 2 mm of mercury at a temperature below 50° C, 200 ml of nitromethane are added, it is filtered, washed with ethyl ether and dried. 64 g of product are obtained (yield 53% with respect to the chloracetamidoglycolic acid). The product recrystallised in water melts at 187° C.

reactant | hydrochloric acid | 18 g | Cl | ClH
reactant | phenol | 1 mole, 94 g | C1(=CC=CC=C1)O | C6H6O
reactant | chloracetamidoglycolic acid | 0.5 mole, 83.8 g | ClCC(=O)NC(C(=O)O)O | C4H6ClNO4
solvent | acetic acid | 120 g | C(C)(=O)O | C2H4O2
product | N-chloracetyl (4-hydroxy phenyl) glycine | 64 g, yield 53% | ClCC(=O)N(CC(=O)O)C1=CC=C(C=C1)O | C10H10ClNO4
